US06951879B2
In analogy to example 21.1, the 5-[2-Methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yl]-pent-4-yn-1-ol was treated with methanesulfonic acid chloride to yield the Methanesulfonic acid 5-[2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yl]-pent-4-ynyl ester as yellow oil, MS: 452 (M+).

reactant | 5-[2-Methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yl]-pent-4-yn-1-ol | CC1=C(C2=C(S1)C=C(C=C2)C#CCCCO)C2=CC=C(C=C2)C(F)(F)F | C21H17F3OS
reactant | methanesulfonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 5-[2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yl]-pent-4-ynyl ester | CC1=C(C2=C(S1)C=C(C=C2)C#CCCCOS(=O)(=O)C)C2=CC=C(C=C2)C(F)(F)F | C22H19F3O3S2
